US08431695B2
Step 1: Preparation of 2-benzyl-5-bromo-1-methyl-1H-benzimidazole
Powdered KOH (5.25 g, 93.50 mmol) was added to a stirred solution of 2-benzyl-5-bromo-1H-benzimidazole (5.37 g, 18.70 mmol) in acetone (100 mL), after 10 min, methyl iodide (1.28 mL, 20.57 mmol) was added and the mixture was stirred for 1 h and diluted with DCM. The mixture was washed with water and brine, then dried over Na2SO4 and concentrated. The residue was taken up in DCM and hexanes and the resulting suspension filtered. The filter cake was washed with hexanes and dried on a high vacuum pump to give an off-white solid (2.07 g, 37%). LC-MS [M+H]+=302.1, RT=2.47 min

reactant | KOH | 93.50 mmol, 5.25 g | [OH-].[K+]
reactant | 2-benzyl-5-bromo-1H-benzimidazole | 18.70 mmol, 5.37 g | C(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Br | C14H11BrN2
reactant | methyl iodide | 20.57 mmol, 1.28 mL | CI | CH3I
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-benzyl-5-bromo-1-methyl-1H-benzimidazole | 2.07 g, 37% | C(C1=CC=CC=C1)C1=NC2=C(N1C)C=CC(=C2)Br | C15H13BrN2
